US09282743B2
Preparation of 8-(2,6-Diethyl-4-methyl-phenyl)-3-methoxy-tetrahydro-pyrazolo[1,2-a][1,2,5]triazepine-7,9-dione (compound P2.3)
A degassed solution in a microwave vial of 5-methoxy-[1,2,5]triazepane (free base, 50 mg, 0.38 mmol) and 2-(2,6-diethyl-4-methyl-phenyl)-malonamide (95 mg, 0.38 mmol) in 1,2-dichloroethane (2.5 ml) under argon was irradiated with microwaves at 180° C. for 5 minutes. The solvent was evaporated, the residue dissolved in 5N aqueous sodium hydroxide, the aqueous layer extracted twice with ethyl acetate and the combined organic layers discarded. The aqueous alkaline phase was acidified with cooling to pH 2-3 by addition of a 4N HCl solution and the product thoroughly extracted with dichloromethane. The combined organic layers were dried over sodium sulfate and concentrated in vacuo. Yield: 20 mg of 8-(2,6-diethyl-4-methyl-phenyl)-3-methoxy-tetrahydro-pyrazolo[1,2-a][1,2,5]triazepine-7,9-dione (compound P2.3) as a tan solid.

reactant | 5-methoxy-[1,2,5]triazepane | 0.38 mmol, 50 mg | CON1CCNNCC1 | C5H13N3O
reactant | 2-(2,6-diethyl-4-methyl-phenyl)-malonamide | 0.38 mmol, 95 mg | C(C)C1=C(C(=CC(=C1)C)CC)C(C(=O)N)C(=O)N | C14H20N2O2
solvent | 1,2-dichloroethane | 2.5 ml | ClCCCl | C2H4Cl2
product | 8-(2,6-Diethyl-4-methyl-phenyl)-3-methoxy-tetrahydro-pyrazolo[1,2-a][1,2,5]triazepine-7,9-dione | C(C)C1=C(C(=CC(=C1)C)CC)C1C(N2N(CCN(CC2)OC)C1=O)=O | C19H27N3O3
